data/mechanisms/records/IMS8-EQ8.85a.json
{"mechanism_id": "IMS8-EQ8.85a", "species": [{"species_id": "protonated_methyl_isopropyl_ether", "mapped_smiles": "[CH3:3][CH:1]([CH2:2][1H:7])[O+:4]([1H:6])[CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isopropyl_cation", "mapped_smiles": "[CH3:3][CH+:1][CH2:2][1H:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methanol", "mapped_smiles": "[O:4]([1H:6])[CH3:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_methyl_isopropyl_ether"]}, {"state_id": "state_products", "species_ids": ["isopropyl_cation", "methanol"]}], "steps": [{"step_id": "step_inductive_CO_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_85a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_CO_cleavage", "support_type": "textbook_proposed", "locator": {"page": 199, "equation": "8.85", "figure": null, "panel": "top reaction arrow, labelled 'i'", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.85, TOP reaction arrow, labelled with the italic 'i' (inductive cleavage). The drawn reactant is protonated methyl isopropyl ether, written on the page as (CH3)2CH-O(+)(H)-CH3 with the '+' printed on the OXYGEN and the O-bound H drawn explicitly; the mapped SMILES localizes the charge on that same oxygen (convention B). The drawn products are 'i-C3H7+ + CH3OH' with '40%' printed underneath. MECHANISM: heterolysis of the C1-O4 bond with both electrons going to the oxygen, which leaves as neutral methanol and leaves the even-electron isopropyl cation (m/z 43.0542, curator-computed monoisotopic). Book draws 0 arc(s): Equation 8.85 contains NO curved electron-pushing arrows at all - it is drawn with straight reaction/equilibrium arrows plus dashed 'partial bond' strokes that denote the loose bonds of the ion-neutral complexes. The single encoded move <1> is reconstructed for electron balance (not drawn on the page). NOTE ON THE DRAWN INTERMEDIATE: the vertical double arrow below the reactant leads to the same dissociation drawn as an ion-neutral COMPLEX 'CH2(H)-CH(CH3)...O(+)(H)CH3' (a dashed C...O bond, one methyl H drawn out explicitly because it is the H that becomes labile); that complex is non-covalent and has no defined bond orders, so it is not encoded as a discrete mapped species - this record encodes the net C-O heterolysis, which is what the dashed bond depicts. The up-arrow at the centre of the scheme shows that the same 40% products are also reached from the proton-bound complex of Equation 8.85b. CONTEXT: the p.199 text introduces Equation 8.85 with 'In the absence of activating functional groups in EE ions, proton-exchange reactions can proceed in ion-molecule complexes (Equations 8.14, 8.85; Terlouw et al. 1986; Bowen 1991); demonstration of such pathways usually requires D-labeling. Here both the hydrogen lability and site receptivity' [continues on p.200] 'are determined by the relative proton affinities of the donor and acceptor sites: PA(C3H6, CH3OH) = 7.8, 7.9 eV. Note that the competitive dissociations of such a proton-bound isomer of (AB + H)+ produce AH+ and BH+, whose mass sum equals AB + 2.' The reacting ion is therefore the protonated molecule (AB+H)+ of methyl isopropyl ether, C4H11O+, curator-computed monoisotopic m/z 75.0804; the page prints no m/z for it. The two percentages printed on the page (40%, 60%) are the BRANCHING abundances of the two competing dissociation channels, not 70 eV EI relative intensities."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "unspecified - the page names no ionization or activation experiment; the reacting ion is the protonated molecule (AB+H)+ of methyl isopropyl ether discussed in the p.199/200 text (Terlouw et al. 1986; Bowen 1991). ionization_method 'CI' is the curator's inference for how an (AB+H)+ ion is made, NOT a statement printed on the page", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 75.0804, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_iC3H7", "species_id": "isopropyl_cation", "step_id": "step_inductive_CO_cleavage", "observed_mz": 43.0542, "relative_intensity": 0.4, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
